US08314100B2
1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 114)
Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 106 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 2.36 (s, 3H), 3.14 (s, 4H), 3.70 (s, 4H), 4.15 (s, 3H), 6.95-7.01 (m, 3H), 7.26-7.46 (m, 3H), 7.61-7.81 (m, 2H).

reactant | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 90% | ClC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C)OC | C22H24ClN5O2
